US07491739B2
Next, methylene chloride (208 ml) was added to a mixture of 2-[N-(t-butoxycarbonyl)-N-propylamino]acetic acid (4.52 g, 20.8 mmol) and 1-adamantaneamine (3.46 g, 22.9 mmol), and the whole was stirred at room temperature. N,N-Diisopropylethylamine (7.25 ml, 41.6 mmol) and then O-(7-azabenzotriazol-1-yl)-N,N′,N′-tetramethyluronium hexafluorophosphate (8.71 g, 22.9 mmol) were added thereto, and the whole was stirred overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give 7.88 g (quantitatively) of 2-[N′-(butoxycarbonyl)-N′-propylamino]acetic acid N-(1-adamantyl)amide as a colorless oily matter. The obtained oily matter solidified at room temperature.

reactant | 2-[N-(t-butoxycarbonyl)-N-propylamino]acetic acid | 20.8 mmol, 4.52 g | C(C)(C)(C)OC(=O)N(CCC)CC(=O)O | C10H19NO4
reactant | 1-adamantaneamine | 22.9 mmol, 3.46 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | N,N-Diisopropylethylamine | 41.6 mmol, 7.25 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 208 ml | C(Cl)Cl | CH2Cl2
product | 2-[N′-(butoxycarbonyl)-N′-propylamino]acetic acid N-(1-adamantyl)amide | C12(CC3CC(CC(C1)C3)C2)NC(CN(CCC)C(=O)OCCCC)=O | C20H34N2O3
